US07538243B2
Magnesium (36.9 g, 1.52 mol, 50-150 mesh), neophylchloride (2.0 g, 0.01 mol) and tetrahydrofuran (40 ml) were placed in a flask under an atmosphere of argon. A Grignard reaction was then started with 1,2-dibromoethane (0.2 ml) and tert.-butyl methyl ether (MTBE, 50 ml) was subsequently added while maintaining reflux. Neophylchloride (258 g, 1.53 mol) dissolved in MTBE (400 ml) was then added at 48° C. over a period of 5.5 h. After 1.7 h stirring at the same temperature, the reaction mixture was diluted with MTBE (500 ml). Dried CO2 was then introduced above the surface at a temperature of 35° C. (ice cooling) for 18 min and directly into the solution for 5 min. The mixture was then acidified with HCl 16% and the organic phase was extracted with NaOH 32% (160 ml). The alkaline solution was first washed with MTBE and then again acidified with HCl 16%. Extraction with MTBE and evaporation of the solvent gave 3-Methyl-3-phenyl-butanoic acid (247.2 g).

reactant | Magnesium | 1.52 mol, 36.9 g | [Mg] | Mg
reactant | 1,2-dibromoethane | 0.2 ml | BrCCBr | C2H4Br2
reactant | Neophylchloride | 1.53 mol, 258 g | C(C(C)(C)C1=CC=CC=C1)Cl | C10H13Cl
reactant | CO2 | C(=O)=O | CO2
reactant | HCl | Cl | ClH
solvent | MTBE | 400 ml | CC(C)(C)OC | C5H12O
solvent | MTBE | 500 ml | CC(C)(C)OC | C5H12O
catalyst | neophylchloride | 0.01 mol, 2.0 g | C(C(C)(C)C1=CC=CC=C1)Cl | C10H13Cl
solvent | tert.-butyl methyl ether | 50 ml | COC(C)(C)C | C5H12O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-Methyl-3-phenyl-butanoic acid | 247.2 g | CC(CC(=O)O)(C)C1=CC=CC=C1 | C11H14O2
